US07524965B2
The crude dibenzyl-(4-[1,3]dioxolan-2-yl-2,5-dimethyl-phenyl)amine was dissolved in a 2:1 mixture of ethanol and water (150 mL total) and the resulting mixture was purged with dry nitrogen for 5 minutes. Palladium on carbon (2.3 g, 10 wt. % containing about 50% water) and solid sodium bicarbonate (1.0 g) were added and the resulting mixture was hydrogenated at about 1 atm of hydrogen at 25° C. to 30° C. for about 8 hours. The mixture was then filtered through Celite and the filtrate was concentrated on a rotary evaporator to provide crude 4-[1,3]dioxolan-2-yl-2,5-dimethylphenylamine (5.6 g, 92% yield) as a thick oil. 1H NMR (300 MHz, DMSO-d6) δ 2.05 (s, 3H), 2.22 (s, 3H), 3.7-3.9 (m, 4H), 3.95 (s, 4H), 5.59 (s, 1H), 6.72 (s, 1H), 7.0-7.25 (m, 11H).

reactant | dibenzyl-(4-[1,3]dioxolan-2-yl-2,5-dimethyl-phenyl)amine | C(C1=CC=CC=C1)N(C1=C(C=C(C(=C1)C)C1OCCO1)C)CC1=CC=CC=C1 | C25H27NO2
solvent | ethanol | C(C)O | C2H6O
solvent | water | 150 mL | O | H2O
product | 4-[1,3]dioxolan-2-yl-2,5-dimethylphenylamine | 5.6 g, 92% yield | O1C(OCC1)C1=CC(=C(C=C1C)N)C | C11H15NO2
